US07230020B2
Reaction of 4-aminoacetophenone (74 mg, 0.55 mmol) in THF (6 mL) with p-anisoyl chloride (90 mg, 0.65 mmol) in presence of triethylamine (90 μL, 0.65 mmol) according to method A gave N-(4-acetyl-phenyl)-4-methoxy-benzamide (110 mg, 0.41 mmol, 75% yield) as a white powder after washing by dichloromethane.

reactant | 4-aminoacetophenone | 0.55 mmol, 74 mg | CC(=O)C1=CC=C(C=C1)N | C8H9NO
reactant | p-anisoyl chloride | 0.65 mmol, 90 mg | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
reactant | triethylamine | 0.65 mmol, 90 μL | C(C)N(CC)CC | C6H15N
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | N-(4-acetyl-phenyl)-4-methoxy-benzamide | 0.41 mmol, 110 mg, 75% yield | C(C)(=O)C1=CC=C(C=C1)NC(C1=CC=C(C=C1)OC)=O | C16H15NO3
